US04851536
A. 6,9-Dichloro-1,2,3,4-tetrahydro-2-phenylacridine, hemihydrate
To a slurry of 15 g (0.0874 mol) of 2-amino-4-chlorobenzoic acid and 150 ml of phosphorous oxychloride is added dropwise 15 g (0.0871 mol) of 4-phenylcyclohexanone. The mixture is stirred at reflux for 3 hours and then concentrated in vacuo. The residue is dissolved in methylene chloride and added slowly to an ice-NH4OH mixture. The mixture is stirred for 1/2 hour and extracted with methylene chloride. The combined extracts are washed with water, dried over Na2SO4, and concentrated in vacuo to yield a dark solid. Trituration with ether provides 20 g (70%) of title compound: m.p. 134°-136° C.; IR 1605, 1585 and 1480 cm-1 ; NMR (CDCl3) δ 8.12-8.0 (m, 2H), 7.54-7.46 (m, 1H), 7.44-7.26 (m, 5H), 3.50-2.88 (m, 5H), and 2.28-2.02 (m, 2H).

reactant | 2-amino-4-chlorobenzoic acid | 0.0874 mol, 15 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | phosphorous oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-phenylcyclohexanone | 0.0871 mol, 15 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
solvent | ether | CCOCC | C4H10O
product | 6,9-Dichloro-1,2,3,4-tetrahydro-2-phenylacridine, hemihydrate | 20 g, 70% | O.ClC=1C=C2N=C3CCC(CC3=C(C2=CC1)Cl)C1=CC=CC=C1.ClC=1C=C2N=C3CCC(CC3=C(C2=CC1)Cl)C1=CC=CC=C1 | InChI=1S/2C19H15Cl2N.H2O/c2*20-14-7-8-15-18(11-14)22-17-9-6-13(10-16(17)19(15)21)12-4-2-1-3-5-12;/h2*1-5,7-8,11,13H,6,9-10H2;1H2
